US05405851
A mixture of N-(7-bromo-1,2-dihydro-1-oxobenzo[f]quinazolin-3-yl)pivalamide (0.3 g, 0.8 mmole) and benzylamine (10 ml) was stirred and heated at reflux under a nitrogen atmosphere for 18 hours. The cooled reaction mixture was then mixed with 4 volumes of ether to cause precipitation of the product. The precipitate was filtered and recrystallized from methanol to give 3-(benzylamino)-7-bromobenzo-[f]quinazolin-1(2H)-one as an off-white solid. (0.11 g, 37%) 1H NMR(DMSO-d6, 200 MHz) δ: 4.62(d, J=5.7 Hz, 2H, CH2); 7.02(m, 1H, benzyl-NH); 7.20-7.55(m, 7H, Ar); 7.79(dd, J=7.5, 1.1 Hz, 1H, Ar); 8.30(d, J=9.2 Hz, 1H, Ar); 9.74(d, J=8.6 Hz, 1H, Ar); 11.2(br s, 1H, pyr-NH).

reactant | N-(7-bromo-1,2-dihydro-1-oxobenzo[f]quinazolin-3-yl)pivalamide | 0.8 mmole, 0.3 g | BrC1=CC=CC=2C=3C(NC(=NC3C=CC21)NC(C(C)(C)C)=O)=O | C17H16BrN3O2
reactant | benzylamine | 10 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | ether | CCOCC | C4H10O
product | 3-(benzylamino)-7-bromobenzo-[f]quinazolin-1(2H)-one | C(C1=CC=CC=C1)NC1=NC=2C=CC3=C(C2C(N1)=O)C=CC=C3Br | C19H14BrN3O
